US06420418B1
2-(4-Chlorophenyl)-2-tetrahydrofuroic Acid
Potassium cyanide (1.87 g, 28.78 mmol) was added to a solution of 4-chloro-4′-chloro-butyrophenone (5.00 g, 23.03 mmol) in 25 mL of methanol. After stirring for 3 days at room temperature, the reaction was poured into water (50 mL) and extracted with methylene chloride (3×50 mL). The organic layers were combined, washed with saturated aqueous sodium chloride (50 mL), dried over MgSO4 and concentrated in vacuo. The residue was purified by flash chromatography (Biotage) over silica gel eluting with hexane/ethyl acetate (30:1) to give 3.52 g of the title compound as an oil. 1H NMR (500 MHz, CDCl3): δ 7.47 (m, 2H); 7.38 (m, 2H); 4.24 (m, 2H); 2.74 (m, 1H); 2.33 (m, 1H), 2.15 (m, 2H).

reactant | Potassium cyanide | 28.78 mmol, 1.87 g | [C-]#N.[K+]
reactant | 4-chloro-4′-chloro-butyrophenone | 23.03 mmol, 5.00 g | ClCCCC(=O)C1=CC=C(C=C1)Cl | C10H10Cl2O
reactant | water | 50 mL | O | H2O
reactant | methanol | 25 mL | CO | CH4O
product | 2-(4-Chlorophenyl)-2-tetrahydrofuroic Acid | 3.52 g | ClC1=CC=C(C=C1)C1(OCCC1)C(=O)O | C11H11ClO3
